US07183296B2
A solution of 466 mg of phosphorus tetraiodide in 15 mL of benzene was heated at 80° C. for 15 minutes. To this solution was added dropwise a solution of 400 mg of 4-[[5-(3,5-dichloro-phenylsulfanyl)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-hydroxy-methyl-pyridine in 10 mL of benzene. The mixture was then heated at 80° C. for 1 hour then allowed to cool to room temperature. Then 8 mL of 10% aqueous sodium bisulphite solution was added and the biphasic mixture stirred for 1 hour. The aqueous phase was extracted three times with 30 mL of ethyl acetate and combined extracts were washed with brine, dried, filtered and evaporated to give a yellow residue which was purified by flash chromatography on silica gel using ethyl acetate/hexane (1:1 then 2:1) for the elution to give 238 mg of 4-[5-(3,5-dichloro-phenylsulfanyl)-1-isopropyl-3-methyl-1H-pyrazol-4-ylmethyl]-pyridine as a white solid. Mass spectrum (ES) m/z 392 [M+H]+, 433 [M+H+MeCN]+.

reactant | phosphorus tetraiodide | 466 mg | [P](I)(I)(I)I | I4P
reactant | [5-(3,5-dichloro-phenylsulfanyl)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-hydroxy-methyl-pyridine | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)C)C1=C(C(=NC=C1)C)O | C19H19Cl2N3OS
reactant | sodium bisulphite | 8 mL | S([O-])(O)=O.[Na+]
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 4-[5-(3,5-dichloro-phenylsulfanyl)-1-isopropyl-3-methyl-1H-pyrazol-4-ylmethyl]-pyridine | 238 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)C)CC1=CC=NC=C1 | C19H19Cl2N3S
